US05125958
To a stirred mixture of 5.00 g (0.0145 mole) of acetaldehyde 4-chloro-2-fluoro-5-(1,3-dithian-2-yl)phenylhydrazone in 50 mL of acetic acid is added dropwise a solution of 1.38 g (0.017 mole) of potassium cyanate in 5 mL of water. This mixture is stirred at 15° C. for approximately 1.5 hour. Additional aqueous potassium cyanate solution may be added if analysis of the reaction mixture by thin layer chromatography indicates the presence of acetaldehyde 4-chloro-2-fluoro-5-(1,3-dithian-2-yl)phenylhydrazone. While maintaining a temperature of 15° C., 30 mL of an aqueous, 5% sodium hypochlorite solution is added. This mixture is stirred at 15° C. for approximately one hour. The solvents are removed by distillation under reduced pressure to leave a residue. This residue is dissolved in ethyl acetate and is washed in succession with an aqueous, saturated sodium bicarbonate solution, water, and an aqueous, saturated sodium chloride solution. The washed organic solution is dried over anhydrous magnesium sulfate and is filtered. The filtrate is evaporated under reduced pressure to yield 1-[4-chloro-2-fluoro-5-(1,3-dithian-2-yl)phenyl]-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one.

reactant | acetaldehyde 4-chloro-2-fluoro-5-(1,3-dithian-2-yl)phenylhydrazone | 0.0145 mole, 5.00 g | ClC1=CC(=C(C=C1C1SCCCS1)NN=CC)F | C12H14ClFN2S2
reactant | potassium cyanate | 0.017 mole, 1.38 g | [O-]C#N.[K+]
reactant | sodium hypochlorite | Cl[O-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-chloro-2-fluoro-5-(1,3-dithian-2-yl)phenyl]-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | ClC1=CC(=C(C=C1C1SCCCS1)N1N=C(NC1=O)C)F | C13H13ClFN3OS2
